US05830920
2.1 g of dimethyl 5-hydroxy-isophthalate and 2.9 g of (R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl toluene-4-sulfonate were stirred at reflux for 3 hours in 120 ml of dimethylformamide with the addition of 6.9 g of potassium carbonate. The reaction mixture was poured on to ice-water, extracted with methylene chloride, the combined methylene chloride phases were washed with water, dried over magnesium sulfate, filtered and evaporated. There was obtained dimethyl (S)-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-isophthalate, MS: m/z 324 ([M]+).

reactant | dimethyl 5-hydroxy-isophthalate | 2.1 g | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | (R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl toluene-4-sulfonate | 2.9 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC(OC1)(C)C)C | C13H18O5S
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | dimethyl (S)-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-isophthalate | CC1(OC[C@@H](O1)COC=1C=C(C=C(C(=O)OC)C1)C(=O)OC)C | C16H20O7
